US06608070B1
To a solution of 3-[4-chloro-2-(toluene-4-sulfonylamino)-phenyl]-acrylic acid ethyl ester (13.0g, 34.2 mmol) in N,N-dimethylacetamide (120 ml) was added potassium carbonate (9.45 g, 68.4 mmol) and 2-bromo-4′-chloroacetophenone (8.78 g, 37.6 mmol) and the reaction was stirred at room temperature for 15 minutes. 1N Sodium hydroxide (130 ml) was added and the reaction mixture was heated to 100° C. for 8 hours. The reaction mixture was cooled to room temperature and poured into a separatory funnel and washed with methyl t-butyl ether (2×200 ml). The aqueous layer was acidified to pH 1 with 6N hydrochloric acid and was extracted with ethyl acetate (150 ml). The solvent was removed under reduced pressure and to the resulting oil was added isopropyl alcohol (24 ml) and water (48 ml). A solid precipitated and the slurry was stirred 12 hours. The precipitate was filtered, washed with water, and dried to provide [6-chloro-2-(4-chloro-benzoyl)-1H-indol-3-yl]-acetic acid (9.73 g, 82%). mp 181-183° C. 1H NMR (400 MHz, d6-DMSO) d 3.79 (s, 2), 7.08 (dd, 1, J=8.5, 1.9), 7.42 (d, 1, J=1.9), 7.60 (d, 2, J=8.5), 7.62-7.73 (m, 3), 11.74 (bs, 1), 12.22 (bs, 1). 13C NMR (75 MHz, d6-DMSO) d 31.74, 113.25, 118.00, 121.93, 123.96, 127.69, 130.10, 131.30, 132.02, 133.59, 138.02, 138.37, 138.58, 173.20, 188.29. IR 3314, 1710, 1700, 1618, 1522, 1323, 1227, 1093, 941 cm−1. Analysis calculated for C17H11Cl2NO3: C, 58.64; H, 3.18; N, 4.02. Found: C, 58.58; H, 3.22; N, 3.93.

reactant | 3-[4-chloro-2-(toluene-4-sulfonylamino)-phenyl]-acrylic acid ethyl ester | 34.2 mmol, 13.0g | C(C)OC(C=CC1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C18H18ClNO4S
reactant | potassium carbonate | 68.4 mmol, 9.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-4′-chloroacetophenone | 37.6 mmol, 8.78 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | Sodium hydroxide | 1N, 130 ml | [OH-].[Na+]
solvent | N,N-dimethylacetamide | 120 ml | CN(C(C)=O)C | C4H9NO
product | [6-chloro-2-(4-chloro-benzoyl)-1H-indol-3-yl]-acetic acid | 9.73 g, 82% | ClC1=CC=C2C(=C(NC2=C1)C(C1=CC=C(C=C1)Cl)=O)CC(=O)O | C17H11Cl2NO3
